US04382958
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine
The compound was prepared as in Example 7, from 1-[4-(2-hydroxyethoxy)phenyl]propan-2-one (3.9 g) and 2-hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine (3.75 g) and crystallised from ether-hexane, mp 112°-115° C. as a 82:18 mixture of diastereoisomers.

reactant | 1-[4-(2-hydroxyethoxy)phenyl]propan-2-one | 3.9 g | OCCOC1=CC=C(C=C1)CC(C)=O | C11H14O3
reactant | 2-hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine | 3.75 g | OC(CN)C1=CC(=C(C=C1)OC)F | C9H12FNO2
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(3-fluoro-4-methoxyphenyl)-ethanamine | OCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)OC)F)O | C20H26FNO4
